US05279655
Into a solution prepared by dissolving 20 g of C.I. Basic Blue 7 (commercial name: Aizen Victoria Pure Blue, BOH, made by HODOGAYA CHEMICAL CO., LTD.) into 1.5 l of distilled water was added a solution prepared by dissolving 13 g of sodium dodecylbenzenesulfonate into 500 ml of distilled water. The formed precipitate was recovered and washed with water and dried to give a dodecylbenzenesulfonic acid salt of the dye.

reactant | C.I. Basic Blue 7 | 20 g | CC[NH+]=C1C=CC(=C(C2=CC=C(C=C2)N(CC)CC)C3=CC=C(C=C3)N(CC)CC)C4=CC=CC=C14.[Cl-]
reactant | sodium dodecylbenzenesulfonate | 13 g | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Na]
solvent | water | 500 ml | O | H2O
solvent | water | 1.5 l | O | H2O
product | dodecylbenzenesulfonic acid | C(CCCCCCCCCCC)C1=C(C=CC=C1)S(=O)(=O)O | C18H30O3S
